US05358949
2.0 Grams of 3-[4-(1-pyrrolidinylcarbonylmethyl)-1-piperazinyl]-8-methylcarbostyril hydrochloride was suspended in 20 ml of tetrahydrofuran, to this suspension was added dropwise a solution of 0.32 g of lithium aluminium hydride in 20 ml of tetrahydrofuran under nitrogen gas stream with stirring. This reaction mixture was stirred at the same temperature for 30 minutes, then the reaction mixture was refluxed by heating on a oil bath for 2 hours. To the reaction mixture was added water and methylene chloride and filtered with Celite (a trademark for diatomaceous earth product, manufactured by Johns Manville Sales Corp., U.S.A.). The filtrate was extracted with methylene chloride, washed with an aqueous solution saturated with sodium chloride, and dried with anhydrous sodium sulfate, then concentrated by removing the solvent under reduced pressure, the residue thus obtained was purified by a silica gel column chromatography (eluent: methylene chloride:methanol=10:1). The desired product was converted into dihydrochloride by using ethanol-HCl, then recrystallized from ethanol-water to obtain 1.15 g of 3-{4-[2-(1-pyrrolidinyl)ethyl]-1 -piperazinyl}-8-methylcarbostyril dihydrochloride. Light yellow needle-like crystals. Melting point: over 300° C.

reactant | 3-[4-(1-pyrrolidinylcarbonylmethyl)-1-piperazinyl]-8-methylcarbostyril hydrochloride | Cl.N1(CCCC1)C(=O)CN1CCN(CC1)C=1C(NC2=C(C=CC=C2C1)C)=O
reactant | lithium aluminium hydride | 0.32 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-{4-[2-(1-pyrrolidinyl)ethyl]-1 -piperazinyl}-8-methylcarbostyril dihydrochloride | 1.15 g | Cl.Cl.N1(CCCC1)CCN1CCN(CC1)C=1C(NC2=C(C=CC=C2C1)C)=O | InChI=1S/C20H28N4O.2ClH/c1-16-5-4-6-17-15-18(20(25)21-19(16)17)24-13-11-23(12-14-24)10-9-22-7-2-3-8-22;;/h4-6,15H,2-3,7-14H2,1H3,(H,21,25);2*1H
